US07671235B2
1-((R)-6-Iodo-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl)-azetidin-3-ol
To a stirring solution of C—((R)-6-iodo-1,2,3,4-tetrahydro-naphthalen-1-yl)-methylamine (0.79 g, 2.75 mmol) in isopropanol (6 mL) at ice bath temperature and under nitrogen atmosphere, was added dropwise epibromohydrin ((0.38 g, 2.8 mmol). The ice bath was removed and the reaction mixture was stirred for 18 hours at room temperature. Triethylamine ((0.39 mL, 2.8 mmol) was added, and the reaction mixture was stirred at room temperature for two hours, then at 60° C. for three hours. The reaction mixture was cooled to room temperature, concentrated under reduced pressure, and the residue was taken up in EtOAc. The EtOAc solution was washed with water and 0.5 M aqueous sodium carbonate, dried over MgSO4, filtered, and concentrated under reduced pressure. The resulting oil was chromatographed by HPLC (hexanes/EtOAc 1:1 to 50% hexanes/27% EtOA/15% MeOH/8% con. NH4OH) to 0.5 g (53%) of 1-((R)-6-Iodo-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl)-azetidin-3-ol, MS M+H=344

reactant | C—((R)-6-iodo-1,2,3,4-tetrahydro-naphthalen-1-yl)-methylamine | 2.75 mmol, 0.79 g | IC=1C=C2CCC[C@H](C2=CC1)CN | C11H14IN
reactant | epibromohydrin | C(Br)C1CO1 | C3H5BrO
solvent | isopropanol | 6 mL | C(C)(C)O | C3H8O
product | 1-((R)-6-Iodo-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl)-azetidin-3-ol | IC=1C=C2CCC[C@H](C2=CC1)CN1CC(C1)O | C14H18INO
